US03998879
Reaction of equimolar amounts of 2,4-pentanedione with p-toluenesulfonylisocyanate in benzene according to the procedure of Example 1 affords 3-(N-p- TOLUENESULFONYLCARBAMOYL)-2,4-PENTANEDIONE, m.p. 137°-139.5° C. (corr.).

reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
reactant | p-toluenesulfonylisocyanate | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(N-p- TOLUENESULFONYLCARBAMOYL)-2,4-PENTANEDIONE | C1(=CC=C(C=C1)S(=O)(=O)NC(=O)C(C(C)=O)C(C)=O)C | C13H15NO5S
